US06949571B2
3-(2-Cyanophenyl)-5-(α-hydroxy-2-picolyl)-1-phenyl-1,2-dihydropyridin-2-one
To a solution of 25 mg of 3-(2-cyanophenyl)-5-(2-pyridinecarbonyl)-1-phenyl-1,2-dihydropyridin-2-one in 5 ml of methanol was added 2 mg of sodium borohydride under ice-cooling. After 30 minutes, the mixture was diluted with a saturated aqueous solution of sodium hydrogen carbonate, followed by extracting with ethyl acetate. The ethyl acetate layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (ethyl acetate), to give 15 mg of the title compound as a pale yellow powder.

reactant | 3-(2-cyanophenyl)-5-(2-pyridinecarbonyl)-1-phenyl-1,2-dihydropyridin-2-one | 25 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C(=O)C1=NC=CC=C1)C1=CC=CC=C1)=O | C24H15N3O2
reactant | sodium borohydride | 2 mg | [BH4-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 3-(2-Cyanophenyl)-5-(α-hydroxy-2-picolyl)-1-phenyl-1,2-dihydropyridin-2-one | 15 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)CC1(NC=CC=C1)O)C1=CC=CC=C1)=O | C24H19N3O2
